US07981903B2
A mixture of 3-chloro-N-(4-hydroxyphenyl)propanamide (122 g, 0.61 mol) and AlCl3 (327 g, 2.45 mol) were slowly heated with vigorous stirring at 180° C. (a thick melt formed) and after 5 hours the liquid was poured over ice. The solids were collected by filtration, washed with water, and recrystallized from MeOH to afford 6-hydroxy-3,4-dihydro-2(1 H)-quinolinone (80 g, 40% yield). 1H NMR (400 MHz, DMSO) δ, 2.32-2.36 (m, 2 H), 2.74 (t, 2 H, J=7.2 Hz), 6.50 (m, 1 H), 6.54 (d, 1 H, J=2.8 Hz), 662(d, 1 H, J=8.4 Hz), 9.00 (br, 1 H), 9.78 (br, 1 H).

reactant | 3-chloro-N-(4-hydroxyphenyl)propanamide | 0.61 mol, 122 g | ClCCC(=O)NC1=CC=C(C=C1)O | C9H10ClNO2
reactant | AlCl3 | 2.45 mol, 327 g | [Al+3].[Cl-].[Cl-].[Cl-]
product | 6-hydroxy-3,4-dihydro-2(1 H)-quinolinone | 80 g, 40% yield | OC=1C=C2CCC(NC2=CC1)=O | C9H9NO2
